US08183289B2
Methyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)-2-nitrophenoxy)-3-fluorophenyl)acetate (100 mg, 0.205 mmol) was diluted with THF (2 mL) followed by the addition of Zn dust (13.4 mg, 0.205 mmol) and saturated aq. NH4Cl (1 mL). After stirring for 1 hour, the reaction was diluted with ethyl acetate and 10% aq sodium carbonate. The layers were separated and the organic layer was dried over MgSO4, filtered and concentrated to yield methyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)-2-aminophenoxy)-3-fluorophenyl)acetate (93 mg, 99.1% yield).

reactant | Methyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)-2-nitrophenoxy)-3-fluorophenyl)acetate | 0.205 mmol, 100 mg | ClC1=CC=C(CCNC(=O)C2=CC(=C(OC3=C(C=C(C=C3)CC(=O)OC)F)C=C2)[N+](=O)[O-])C=C1 | C24H20ClFN2O6
reactant | NH4Cl | 1 mL | [NH4+].[Cl-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Zn | 0.205 mmol, 13.4 mg | [Zn] | Zn
product | methyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)-2-aminophenoxy)-3-fluorophenyl)acetate | 93 mg, 99.1% yield | ClC1=CC=C(CCNC(=O)C2=CC(=C(OC3=C(C=C(C=C3)CC(=O)OC)F)C=C2)N)C=C1 | C24H22ClFN2O4
